US06337326B1
1-(2-Methoxy-phenyl)-[1,4]diazepane
To 2.03 g (6.62 mmol) of 4-(2-methoxy-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester in 30 mL CH2Cl2 at 23° C. was added 5 mL trifluoroacetic acid. After stirring at 23° C. for 30 min, 4 additional mL of trifluoroacetic acid were added. After a total of 1 h, the reaction solution was poured into 200 mL of saturated aqueous NaHCO3 and extracted with 3×100 mL of EtOAc. The combined organics were washed with 1×200 mL H2O, 1×200 mL brine, dried over Na2SO4, filtered and evaporated to give 1.01 g (4.90 mmol, a 74% yield) of the title compound as a yellow oil. 1H NMR (300 MHz, CDCl3): δ1.99 (pent, J=4.5 Hz, 2H), 2.82 (brs, 1H), 3.06 (t, J=4.4 Hz, 2H), 3.08-3.13 (m, 2H), 3.29-3.36 (m, 4H), 3.84 (s, 3H), 6.83-6.96 (m, 4H); IR (KBr, cm−1): 3335w;, MS (ES) m/z (relative intensity): 207 (M++H, 100).

reactant | 4-(2-methoxy-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 6.62 mmol, 2.03 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=C(C=CC=C1)OC | C17H26N2O3
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Methoxy-phenyl)-[1,4]diazepane | 74% yield | COC1=C(C=CC=C1)N1CCNCCC1 | C12H18N2O
